US07256215B2
To a stirred solution of 21.87 g of 5-cyano-N-[2-(4-hydroxy-2-methoxymethoxyphenyl)ethyl]-2-methoxybenzene sulfonamide and 10.21 g of N,N-dimethylaminopyridine in 230 mL of dichloromethane was added 9.38 mL of trifluoromethanesulfonic anhydride under ice-cooling. The mixture was stirred for 1 hour, and about 50 g of crushed ice was added to the reaction mixture. The mixture was concentrated under reduced pressure to remove dichloromethane, and the residue was poured into a mixture of 500 mL of ethyl acetate and 200 mL of water. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure, and the residue was recrystallized from ethyl acetate-diisopropyl ether to give 24.75 g of 4-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-3-methoxymethoxyphenyl trifluoromethanesulfonate as a colorless powder.

reactant | 5-cyano-N-[2-(4-hydroxy-2-methoxymethoxyphenyl)ethyl]-2-methoxybenzene sulfonamide | 21.87 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)O)OCOC)OC | C18H20N2O6S
reactant | trifluoromethanesulfonic anhydride | 9.38 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 230 mL | ClCCl | CH2Cl2
product | 4-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-3-methoxymethoxyphenyl trifluoromethanesulfonate | 24.75 g | FC(S(=O)(=O)OC1=CC(=C(C=C1)CCNS(=O)(=O)C1=C(C=CC(=C1)C#N)OC)OCOC)(F)F | C19H19F3N2O8S2
